US08426604B2
A. (2-Hydroxy-3-methylamino-propyl)-carbamic acid tert-butyl ester
A solution of Oxiranylmethyl-carbamic acid tert-butyl ester (0.64 g, 3.7 mmol) in Ethanol (6 mL) was treated at room temperature with a 2.0M solution of methylamine in THF (5 mL, 10 mmol). The reaction mixture was stirred for 5 hours at 40° C. The solvent was evaporated in vacuo to yield a gum which was used directly into the next step (0.75 g, 98%)

reactant | Oxiranylmethyl-carbamic acid tert-butyl ester | 3.7 mmol, 0.64 g | C(C)(C)(C)OC(NCC1OC1)=O | C8H15NO3
reactant | methylamine | CN | CH5N
reactant | THF | 10 mmol, 5 mL | C1CCOC1 | C4H8O
solvent | Ethanol | 6 mL | C(C)O | C2H6O
product | (2-Hydroxy-3-methylamino-propyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCC(CNC)O)=O | C9H20N2O3
